US08748627B2
2-[(1S)-1-methylprop-2-ynyl]-1H-isoindole-1,3(2H)-dione
To a solution of R-(+)-propargyl-2-ol (2.46 g, 20.8 mmol), phthalimide (3.065 g, 20.5 mmol) and triphenylphosphine (8.2 g, 31.3 mmol) in tetrahydrofuran (30 mL) at 0° C., was slowly added a solution of 40% diethyl azodicarboxylate in toluene (14 mL, 31.3 mmol). The reaction mixture was stirred at room temperature for 4 hours and the solvent was removed under vacuum. The residue was dissolved in a mixture of 5:1 ether:hexane and stirred at room temperature overnight. The resulting solid triphenylphosphine oxide was filtered off, washed with ether, and the filtrate was concentrated and purified using silica gel column chromatography using a gradient of 5 to 25% ethyl acetate in hexane to provide the title compound (2.56 gm). 1H NMR (300 MHz, DMSO-d6) δ ppm 7.82-7.94 (m, 4H) 5.00-5.20 (m, 1H) 3.34 (d, J=2.57 Hz, 1H) 1.62 (d, J=7.35 Hz, 3H). MS (DCI): m/z 200 (M+H)+. The enantiomeric excess was determined by chiral HPLC (Chiralcel OD-H; Mobile Phase: Hex (0.2% diethylamine)/isopropyl alcohol=98/2; Flow rate: 0.8 mL/min) to be >96%,

reactant | phthalimide | 20.5 mmol, 3.065 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 31.3 mmol, 8.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 31.3 mmol, 14 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-[(1S)-1-methylprop-2-ynyl]-1H-isoindole-1,3(2H)-dione | 2.56 gm | C[C@@H](C#C)N1C(C2=CC=CC=C2C1=O)=O | C12H9NO2
